US07750161B2
C1.1. 2,6-Dimethyl-4-nitro-pyridine 1-oxide
Lutidine-N-oxide (19 g, 155 mmol) is cooled at 0° C. and a mixture of fuming HNO3 (100%, 37.5 mL) and conc. H2SO4 (95-97%, 52.5 mL), prepared by addition of H2SO4 to HNO3 at 0° C., is added slowly. The mixture is heated at 80° C. for 3 h. The cooled mixture is carefully poured into ice-water (500 mL). A white precipitate forms that is filtered. The precipitate is dissolved in CH2Cl2 (100 mL) and the filtrate is extracted with CH2Cl2 (4×75 mL). The organic extracts are combined with the dissolved precipitate and washed with sat. aq. NaCl (2×75 mL), dried (Na2SO4), filtered and evaporated to provide the title compound.

reactant | Lutidine-N-oxide | 155 mmol, 19 g | [N+]=1(C(=CC=CC1C)C)[O-] | C7H9NO
reactant | HNO3 | 37.5 mL | [N+](=O)(O)[O-] | HNO3
reactant | H2SO4 | 52.5 mL | OS(=O)(=O)O | H2O4S
product | 2,6-Dimethyl-4-nitro-pyridine 1-oxide | CC1=[N+](C(=CC(=C1)[N+](=O)[O-])C)[O-] | C7H8N2O3
